US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-2-ylmethyl}-amino]-pyrimidin-5-yloxy}-butyrate (185 mg) is dissolved in ethanol (4 ml), and thereto is added 1N-aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid (160 mg). The resulting 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid (160 mg) is dissolved in ethanol (1 ml) and thereto is added 1N-aqueous sodium hydroxide solution (245 μl) and concentrated under reduced pressure to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid sodium salt (158 mg). MS (m/z): 656 [M−Na]−

reactant | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 160 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C31H24F9N3O3
reactant | sodium hydroxide | 245 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid sodium salt | 158 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)[O-])CC2=C(C=CC(=C2)C(F)(F)F)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H24F9N3O3.Na/c32-29(33,34)22-8-9-26(20-5-2-1-3-6-20)21(13-22)18-43(28-41-15-25(16-42-28)46-10-4-7-27(44)45)17-19-11-23(30(35,36)37)14-24(12-19)31(38,39)40;/h1-3,5-6,8-9,11-16H,4,7,10,17-18H2,(H,44,45);/q;+1/p-1
